* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1014A.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
R1 N006 N005 100K
R2 N003 N001 100K
V3 IN+ 0 SINE(0 1 10)
R3 N005 N003 1K
R4 N002 N001 100K
R5 N004 N006 100K
R6 OUT N002 100K
R7 0 N004 100K
V4 IN- IN+ SINE(0 10m 100)
R8 N007 IN- 10Meg
R9 N007 IN+ 5Meg
R10 N007 N008 10Meg
C1 N008 N007 10p
R11 N007 -V 100K
X§U1 IN+ N005 +V -V N006 LT1013
X§U2 N004 N002 +V -V OUT LT1013
X§U3 IN- N003 +V -V N001 LT1013
X§U4 IN+ N008 +V -V N007 LT1013
.tran 300m
* Triple Op Amp Instrumentation Amplifier with Bias Current Cancellation
.lib LT1013.sub
.backanno
.end
